US07018988B2
(2S,4EZ)-N-[(3R)-3-hydroxy-3-phenylpropyl]-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and (1R)-3-amino-1-phenyl-1-propanol, the title compound was obtained in 94% purity by HPLC. MS(ESI+): m/z=486.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | (1R)-3-amino-1-phenyl-1-propanol | NCC[C@@H](O)C1=CC=CC=C1 | C9H13NO
product | (2S,4EZ)-N-[(3R)-3-hydroxy-3-phenylpropyl]-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4yl)carbonyl]-2-pyrrolidinecarboxamide | O[C@H](CCNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C)C1=CC=CC=C1 | C29H31N3O4
